US07618990B2
Step 2: 4-[2-(3,5,5-Trimethyl-2-oxoimidazolidin-1-yl)-1,3-thiazol-4-yl]benzonitrile
4-{2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile (318 mg, 1.17 mmol), prepared in the previous step, was dissolved in 12 mL of methanol and 1 g of molecular sieves was added. Acetic acid (0.13 mL, 2.3 mmol) and a 2M solution of methylamine in methanol (1.76 mL, 3.52 mmol) were added followed by sodium cyanoborohydride (0.44 g, 7.0 mmol) and the mixture was stirred for 16 h. Sodium triacetoxyborohydride (1.5 g, 7.0 mmol) was added and the mixture was stirred for 72 h. The mixture was diluted with ethyl acetate and washed with H2O, NaHCO3, brine, dried over anhydrous MgSO4, filtered and concentrated to give 380 mg of crude product. This material was dissolved in 15 mL tetrahydrofuran and triethylamine (1.0 mL, 7.3 mmol) was added followed by triphosgene (0.59 g, 2.0 mmol). The mixture was stirred for 2 h, poured into saturated NaHCO3, diluted with methylene chloride and washed with H2O, 1N HCl, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (20% ethyl acetate/hexane) afforded the title compound (0.105 g, 25%) as a white solid. HRMS: calcd for C16H16N4OS+H+, 313.11176; found (ESI, [M+H]+), 313.1104; Analytical HPLC: purity 100% at 210-370 nm, 9.7 min; 100% at 252 nm, 9.7 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-{2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 1.17 mmol, 318 mg | CC(C=O)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H13N3OS
reactant | Acetic acid | 2.3 mmol, 0.13 mL | C(C)(=O)O | C2H4O2
reactant | methylamine | CN | CH5N
reactant | sodium cyanoborohydride | 7.0 mmol, 0.44 g | C(#N)[BH3-].[Na+]
reactant | Sodium triacetoxyborohydride | 7.0 mmol, 1.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 7.3 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 2.0 mmol, 0.59 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | 3.52 mmol, 1.76 mL | CO | CH4O
product | 4-[2-(3,5,5-Trimethyl-2-oxoimidazolidin-1-yl)-1,3-thiazol-4-yl]benzonitrile | 0.105 g, 25% | CN1C(N(C(C1)(C)C)C=1SC=C(N1)C1=CC=C(C#N)C=C1)=O | C16H16N4OS
